US09085568B2
To the mixture of ethyl 2-benzyl-3-hydrazinyl-2-hydroxy-3-oxopropanoate (40 mg), 3,5-dimethoxybenzonitrile (55 mg) and K2CO3 (44 mg) in 2 mL of n-butanol was heated at 160° C. for 1.5 h. The mixture was then diluted with ethyl acetate and water. The aqueous layer was washed with ethyl acetate and then acidified until pH=1. The mixture was then extracted with 30% isopropanol in chloroform. The organic layer was dried with magnesium sulfate and concentrated to give the crude acid, which was then dissolved in methanol. To the resulting solution was added TMSCHN2 (0.3 mL, 2 M in Et2O) at rt. After 30 min, the mixture was concentrated and purified by Gilson RP-HPLC (30-100% ACN/water/0.05% TFA) to give methyl 2-[5-(3,5-dimethoxyphenyl)-4H-1,2,4-triazol-3-yl]-2-hydroxy-3-phenylpropanoate as a yellow oil.

reactant | ethyl 2-benzyl-3-hydrazinyl-2-hydroxy-3-oxopropanoate | 40 mg | C(C1=CC=CC=C1)C(C(=O)OCC)(C(=O)NN)O | C12H16N2O4
reactant | 3,5-dimethoxybenzonitrile | 55 mg | COC=1C=C(C#N)C=C(C1)OC | C9H9NO2
reactant | K2CO3 | 44 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | TMSCHN2 | 2 M, 0.3 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | n-butanol | 2 mL | C(CCC)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | methyl 2-[5-(3,5-dimethoxyphenyl)-4H-1,2,4-triazol-3-yl]-2-hydroxy-3-phenylpropanoate | COC=1C=C(C=C(C1)OC)C=1NC(=NN1)C(C(=O)OC)(CC1=CC=CC=C1)O | C20H21N3O5
